US09353108B2
C) 2,6-Diethoxy-4′-fluorobiphenyl-4-carbaldehyde
A THF (200 mL) solution of ethyl 2,6-diethoxy-4′-fluorobiphenyl-4-carboxylate (50.7 g) was added to a THF (200 mL) suspension of lithium aluminum hydride (4.34 g) under ice cooling. After stirring at the same temperature as above for 30 minutes, water (4.5 mL) and a 1 M aqueous sodium hydroxide solution (4.5 mL) were added thereto, and the mixture was stirred for 5 minutes. Water (13.5 mL) was further added thereto. The reaction mixture was stirred for 1 hour and then filtered through celite, and the filtrate was concentrated under reduced pressure. A sulfur trioxide-pyridine complex (48.6 g) was added to a DMSO (250 mL) solution of the obtained residue and triethylamine (63.8 mL), and the mixture was stirred at room temperature for 30 minutes. Water (450 mL) was added to the reaction mixture, and the deposited solid was collected by filtration. The obtained solid was recrystallized (ethanol/water) to obtain the title compound (36.9 g).

reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | ethyl 2,6-diethoxy-4′-fluorobiphenyl-4-carboxylate | 50.7 g | C(C)OC1=C(C(=CC(=C1)C(=O)OCC)OCC)C1=CC=C(C=C1)F | C19H21FO4
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | lithium aluminum hydride | 4.34 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1 M, 4.5 mL | [OH-].[Na+]
solvent | Water | 13.5 mL | O | H2O
solvent | water | 4.5 mL | O | H2O
product | 2,6-Diethoxy-4′-fluorobiphenyl-4-carbaldehyde | 36.9 g | C(C)OC1=C(C(=CC(=C1)C=O)OCC)C1=CC=C(C=C1)F | C17H17FO3
